### PR TITLE
chore: rename underscore defs in `JacobiTheta.Bounds`

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
In the `HurwitzKernelBounds` namespace:
* `f_nat, g_nat, F_nat -> f, g, F`
* `f_int, F_int -> fZ, FZ`

### CODE REVIEW

File: Mathlib/NumberTheory/LSeries/HurwitzZetaEven.lean [hunk 1]
```diff
@@ -225,24 +225,24 @@ lemma hasSum_nat_cosKernel₀ (a : ℝ) {t : ℝ} (ht : 0 < t) :
 lemma isBigO_atTop_evenKernel_sub (a : UnitAddCircle) : ∃ p : ℝ, 0 < p ∧
     (evenKernel a · - (if a = 0 then 1 else 0)) =O[atTop] (rexp <| -p * ·) := by
   induction a using QuotientAddGroup.induction_on with | H b =>
-  obtain ⟨p, hp, hp'⟩ := HurwitzKernelBounds.isBigO_atTop_F_int_zero_sub b
+  obtain ⟨p, hp, hp'⟩ := HurwitzKernelBounds.isBigO_atTop_FZ_zero_sub b
```
Comment (jcommelin) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaEven.lean:228]: I've never seen Mathlib use a `Z` suffix to disambiguate. Whereas using `nat/int` is used elsewhere as well.

Comment (Parcly-Taxel) [reply Mathlib/NumberTheory/LSeries/HurwitzZetaEven.lean:228]: I don't think `FInt` is readable.
